US05504091
Glycylbiotin
To a solution of tert-butylglycylbiotin (0.271 g, 0.758 mmol) in CH2Cl2 (0.5 mL) was added 0.5 mL trifluoroacetic acid. The reaction mixture was stirred at room temperature for 2 h, concentrated, and triturated with anhydrous diethyl ether. The off-white precipitate was collected to yield 0.209 g (0.694 mmol, 92%)of the title compound. Mass spec M+H!+ at m/z 302.

reactant | tert-butylglycylbiotin | 0.758 mmol, 0.271 g | N[C@@H](C(C)(C)C)C(=O)C(C(O)=O)CCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C16H27N3O4S
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | Glycylbiotin | 0.694 mmol, 0.209 g, 92% | NCC(=O)C(C(O)=O)CCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C12H19N3O4S
